US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-hydroxybiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 589 using (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid and 5-(4-bromo-2-methoxyphenyl)pyrazin-2-amine. After the coupling, the tert-butyl group and methyl group were removed by treating a solution consisting of 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-methoxy-[1,1′-biphenyl]-2-sulfonamide (48 mg, 0.12 mmol) and DCM (2 mL), with BBr3 (0.14 mL, 1 M in DCM) at −78° Celsius. The reaction mixture was warmed to room temperature. After the starting material was consumed the reaction mixture was poured into saturated NH4Cl (10 mL) and extracted with DCM (3×10 mL). The combined organic extracts were dried with sodium sulfate, filtered, and concentrated to dryness. The resultant residue was subjected to HPLC purification to provide the title compound. MS (ESI): mass calcd. for C16H14N4O3S, 342.38; m/z found, 343.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.71 (s, 1H), 8.18 (dd, J=7.9, 1.4, 1H), 7.93 (d, J=1.4, 1H), 7.80 (d, J=8.2, 1H), 7.64-7.57 (m, 1H), 7.57-7.48 (m, 1H), 7.39 (dd, J=7.6, 1.3, 1H), 7.12 (dd, J=8.1, 1.9, 1H), 7.09-7.03 (m, 1H), 4.38 (s, 2H).

reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | 5-(4-bromo-2-methoxyphenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)OC | C11H10BrN3O
reactant | 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-methoxy-[1,1′-biphenyl]-2-sulfonamide | 0.12 mmol, 48 mg | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)OC | C21H24N4O3S
reactant | BBr3 | 1 M, 0.14 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4′-(5-Aminopyrazin-2-yl)-3′-hydroxybiphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)O | C16H14N4O3S
